US04594442
Under an argon atmosphere, 2 g of [(8-acetyl-7-hydroxy-2-naphthalenyl)oxy]acetic acid methyl ester was added to a suspension of 0.32 g of 60% sodium hydride in 30 ml of anhydrous dimethylformamide. The mixture was stirred at room temperature for 40 minutes and then 11.6 g of bis[2-[2-bromoethoxy)ethyl]ether was added and the mixture was stirred at room temperature for 20 hours. The resulting dark mixture was concentrated in vacuo to an oil which was dissolved in methylene chloride, washed with water and concentrated to give an oil. Purification by high pressure liquid chromatography (35% ethyl acetate-toluene) gave 3.0 g (80%) of [[8-acetyl-7-[2-[2-[2-(2-bromoethoxy)ethoxy]ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester as an oil.

reactant | [(8-acetyl-7-hydroxy-2-naphthalenyl)oxy]acetic acid methyl ester | 2 g | COC(COC1=CC2=C(C(=CC=C2C=C1)O)C(C)=O)=O | C15H14O5
reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | bis[2-[2-bromoethoxy)ethyl]ether | 11.6 g | BrCCOCCOCCOCCBr | C8H16Br2O3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | [[8-acetyl-7-[2-[2-[2-(2-bromoethoxy)ethoxy]ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 3.0 g, 80% | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCOCCOCCOCCBr)C(C)=O)=O | C23H29BrO8
